US08383827B2
A mixture of 4-bromo-2-methylbenzonitrile (1 g, 5.10 mmol), bis(pinacolato)diboron (1.554 g, 6.12 mmol), potassium acetate (1.001 g, 10.20 mmol) and PdCl2(dppf).CH2Cl2 adduct (0.208 g, 0.255 mmol) in 1,4-dioxane (12.75 ml) was heated to 80° C. for 5 h. The mixture was concentrated, and the residue was purified via Biotage (0-10% EtOAc/heptane; SNAP50 column) giving compound 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile as a white solid (860 mg, 69%). 1H NMR (400 MHz, chloroform-d) d ppm 1.28 (s, 12H) 2.38-2.52 (m, 3H) 7.51 (d, J=7.64 Hz, 1H) 7.55-7.64 (m, 1H) 7.67 (s, 1H).

reactant | 4-bromo-2-methylbenzonitrile | 5.10 mmol, 1 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | bis(pinacolato)diboron | 6.12 mmol, 1.554 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 10.20 mmol, 1.001 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.255 mmol, 0.208 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 12.75 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 860 mg, 69% | CC1=C(C#N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H18BNO2
